US09029544B2
(44) (R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(4-tert-butylphenyl)methanol
Obtained by starting from (R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(4-tert-butylphenyl)methanol and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | (R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(4-tert-butylphenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)[C@H](O)C2=CC=C(C=C2)C(C)(C)C)I | C32H48INO2Si
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
product | (R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(4-tert-butylphenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)[C@H](O)C2=CC=C(C=C2)C(C)(C)C)C=2CCOCC2 | C37H55NO3Si
